Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
sigmoid cancer
 
Major Surgical or Invasive Procedure:
laparoscopic converted to open sigmoid colectomy

 
History of Present Illness:
___ with a history of morbid obesity s/p RNYGB + CCY in ___, 
recent admission for large bowel obstruction, biopsy-proven 
adenocarcinoma s/p endoscopic stent placement (___), with 
resection planned for ___ who presents with abdominal pain. 
The patient finished his bowel prep today but developed 
worsening abdominal pain and nausea in the setting of no BMs. He 
has continued to pass gas but no bowel movements despite 
finishing 2L of bowel prep.

The patient is clinically well-appearing and in no acute 
distress. He denies fevers/chills, chest pain ,shortness of 
breath, change in urinary habits, BRBPR. 

ROS:
(+) per HPI
(-) Denies pain, fevers chills, night sweats, unexplained weight 
loss, fatigue/malaise/lethargy, changes in appetite, trouble 
with sleep, pruritis, jaundice, rashes, bleeding, easy 
bruising,headache, dizziness, vertigo, syncope, weakness, 
paresthesias, nausea, vomiting, hematemesis, bloating, cramping, 
melena, BRBPR, dysphagia, chest pain, shortness of breath, 
cough, edema, urinary frequency, urgency

 
Past Medical History:
PMH: HTN, OSA, morbid obesity

PSH: eye surgery ___, RNYGB+CCY ___ ( ___

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
On Admission
General: AAOx3
Cardiac: WNL
Respiratory: RA, equal breath sounds
Abdomen: Soft, non-tender, 
Skin: No lesions

On Discharge:
GEN: NAD
HEENT: NCAT, EOMI, anicteric
CV: RRR, No JVD
PULM: normal excursion, no respiratory distress
ABD: soft, NT, ND, no mass, no hernia, midline incision  c/d/i
EXT: WWP, no CCE, 2+ B/L radial
NEURO: A&Ox3, no focal neurologic deficits
PSYCH: normal judgment/insight, normal memory, normal 
mood/affect

 
Pertinent Results:
___ 06:15AM BLOOD WBC-9.2 RBC-4.02* Hgb-9.3* Hct-33.1* 
MCV-82 MCH-23.1* MCHC-28.1* RDW-18.9* RDWSD-56.6* Plt ___
___ 01:50PM BLOOD WBC-11.7* RBC-4.31* Hgb-10.2* Hct-34.9* 
MCV-81* MCH-23.7* MCHC-29.2* RDW-18.7* RDWSD-54.4* Plt ___
___ 01:54AM BLOOD WBC-4.8 RBC-4.82 Hgb-11.2* Hct-38.1* 
MCV-79* MCH-23.2* MCHC-29.4* RDW-18.6* RDWSD-52.9* Plt ___
___ 05:29AM BLOOD WBC-8.8 RBC-4.71 Hgb-10.8* Hct-37.1* 
MCV-79* MCH-22.9* MCHC-29.1* RDW-18.6* RDWSD-52.2* Plt ___
___ 08:11PM BLOOD WBC-11.1* RBC-5.64 Hgb-13.0* Hct-43.7 
MCV-78* MCH-23.0* MCHC-29.7* RDW-19.0* RDWSD-50.1* Plt ___
___ 08:11PM BLOOD Neuts-76.2* Lymphs-12.7* Monos-8.2 
Eos-2.1 Baso-0.4 Im ___ AbsNeut-8.46* AbsLymp-1.41 
AbsMono-0.91* AbsEos-0.23 AbsBaso-0.04
___ 06:15AM BLOOD Glucose-109* UreaN-15 Creat-0.9 Na-141 
K-4.4 Cl-98 HCO3-32 AnGap-11
___ 08:11PM BLOOD Glucose-129* UreaN-7 Creat-0.8 Na-142 
K-3.2* Cl-102 HCO3-26 AnGap-14
___ 05:29AM BLOOD ALT-145* AST-237* AlkPhos-157* 
TotBili-1.1
___ 08:11PM BLOOD ALT-122* AST-192* AlkPhos-151* 
TotBili-0.7
___ 01:50PM BLOOD CRP-99.8*
___ 01:54AM BLOOD CRP-15.7*
 
Brief Hospital Course:
Mr. ___ is a ___ with obstructing sigmoid adenocarcinoma 
s/p endoscopic ___ now s/p laparoscopic hand assisted 
converted to open sigmoid colectomy on ___. Per operative 
report, first anastomosis with defect and stool leakage, second 
anastomosis intact rings and leak test negative x2.  Refer to 
operative report for complete details of surgery. After a brief 
and uneventful stay in the PACU, the patient was transferred to 
the floor for further post-operative management.
Neuro: Pain was well controlled on Tylenol and tramadol for 
breakthrough pain.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. He had good pulmonary 
toileting, as early ambulation and incentive spirometry were 
encouraged throughout hospitalization.
GI: The patient was initially kept NPO after the procedure. The 
patient was advanced to and tolerated a regular diet. Patient's 
intake and output were closely monitored.
GU: The patient had a Foley catheter that was removed prior to 
discharge. At time of discharge, the patient was voiding without 
difficulty. Urine output was monitored as indicated.
ID: The patient was closely monitored for signs and symptoms of 
infection and fever, of which there was none.
Heme: The patient received subcutaneous heparin and ___ dyne 
boots during this stay. He was encouraged to get up and ambulate 
as early as possible. The patient is being discharged on 
prophylactic Lovenox. 
On ___, the patient was discharged to home. At discharge, he 
was tolerating a regular diet, passing flatus, voiding, and 
ambulating independently. He will follow-up in the clinic in ___ 
weeks. This information was communicated to the patient directly 
prior to discharge.
Post-Surgical Complications During Inpatient Admission:
[ ] Post-Operative Ileus resolving w/o NGT
[ ] Post-Operative Ileus requiring management with NGT
[ ] UTI
[ ] Wound Infection
[ ] Anastomotic Leak
[ ] Staple Line Bleed
[ ] Congestive Heart failure
[ ] ARF
[ ] Acute Urinary retention, failure to void after Foley D/C'd
[ ] Acute Urinary Retention requiring discharge with Foley 
Catheter
[ ] DVT
[ ] Pneumonia
[ ] Abscess
[x] None
Social Issues Causing a Delay in Discharge:
[ ] Delay in organization of ___ services
[ ] Difficulty finding appropriate rehab hospital disposition.
[ ] Lack of insurance coverage for ___ services
[ ] Lack of insurance coverage for prescribed medications.
[ ] Family not agreeable to discharge plan.
[ ] Patient knowledge deficit related to ileostomy delaying 
dispo
[x] No social factors contributing in delay of discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. LamoTRIgine 200 mg PO DAILY 
3. Tamsulosin 0.4 mg PO QHS 
4. MetroNIDAZOLE 500 mg PO Q8H preop 
5. Neomycin Sulfate 500 mg PO AS DIRECTED  
6. Gabapentin 600 mg PO QHS 
7. Enoxaparin Sodium 40 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. LamoTRIgine 200 mg PO DAILY 
3. Tamsulosin 0.4 mg PO QHS 
4. MetroNIDAZOLE 500 mg PO Q8H preop 
5. Neomycin Sulfate 500 mg PO AS DIRECTED  
6. Gabapentin 600 mg PO QHS 
7. Enoxaparin Sodium 40 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  TraMADol 50-100 mg PO Q4H:PRN Pain - Moderate 
RX *tramadol 50 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
3.  Enoxaparin Sodium 40 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 40 mg/0.4 mL 40 mg SC twice a day Disp #*56 
Syringe Refills:*0 
4.  amLODIPine 5 mg PO DAILY  
5.  Gabapentin 600 mg PO QHS  
6.  LamoTRIgine 200 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
sigmoid cancer 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,
You were admitted to the hospital after an laparoscopic 
converted to open sigmoid colectomy for surgical management of 
your sigmoid cancer. You have recovered from this procedure and 
you are now ready to return home. 
Please monitor your bowel function closely. You may or may not 
have had a bowel movement prior to discharge which is 
acceptable; however it is important that you have a bowel 
movement in the next ___ days. After anesthesia it is not 
uncommon for patients to have some decrease in bowel function 
but you should not have prolonged constipation. However, you may 
have loose stool and passing of small amounts of dark, old 
appearing blood. If you notice that you are passing bright red 
blood with bowel movements or having large amounts of loose 
stool without improvement please call the office or go to the 
emergency room. 
You have a long vertical surgical incision on your abdomen. It 
is important that you monitor these areas for signs and symptoms 
of infection including: increasing redness of the incision 
lines, white/green/yellow/foul smelling drainage, increased pain 
at the incision, increased warmth of the skin at the incision, 
or swelling of the area.
You may shower; pat the incisions dry with a towel, do not rub.  
If you have steri-strips (the small white strips), they will 
fall off over time, please do not remove them. Please do not 
take a bath or swim until cleared by the surgical team.
Pain is expected after surgery. This will gradually improve over 
the first week or so you are home.  You should continue to take 
2 Extra Strength Tylenol (___) for pain every 8 hours around 
the clock. Please do not take more than 3000mg of Tylenol in 24 
hours or any other medications that contain Tylenol such as cold 
medication. Do not drink alcohol while taking Tylenol.  You may 
also take Advil (Ibuprofen) 600mg every 8 hours for 7 days. 
Please take Advil with food. If these medications are not 
controlling your pain to a point where you can ambulate and 
perform minor tasks, you should take a dose of the narcotic pain 
medication Tramadol.  Please do not take sedating medications, 
drink alcohol, or drive while taking the narcotic pain 
medication.
You may feel weak or "washed out" for up to 6 weeks after 
surgery. Do not lift greater than a gallon of milk for 3 weeks. 
At your post op appointment, your surgical team will clear you 
for heavier exercise.  In the meantime, you may climb stairs, 
and go outside and walk.  Please avoid traveling long distances 
until you speak with your surgical team at your post-op visit.

You are being discharged home on Lovenox injections to prevent 
blood clots after surgery. You will take this medication for a 
total of 30 days (including doses in hospital), please finish 
the entire prescription. Please monitor for any signs of 
bleeding: fast heart rate, bloody bowel movements, abdominal 
pain, bruising, feeling faint or weak. If you have any of these 
symptoms please call our office or seek medical attention 
immediately. Please avoid any contact activity and take extra 
caution to avoid falling while taking Lovenox.  

Thank you for allowing us to participate in your care, we wish 
you all the best! 

 
Followup Instructions:
___